US04791123
3-Phenoxybenzyl 2-phenyl-2-trifluoromethylethyl ether
Sodium hydride (138 mg; 5.75 mmol) was suspended in dimethoxyethane (20 ml). There was then added in turn, with stirring, 2-phenyl-2-trifluoromethylethanol (1.0 g; 5.25 mmol), a spatula full of sodium iodide and 3-phenoxybenzyl bromide (1.39 g; 5.25 mmol). After stirring for 4 hours at room temperature, the mixture was added to ice-water, extracted with ether, the extract washed with water, dried over sodium sulphate and concentrated. After chromatogrpahy on silica gel using a mixture of hexane and toluene, there was obtained 1.14 g of product (=58.3% of theory).

reactant | Sodium hydride | 5.75 mmol, 138 mg | [H-].[Na+]
reactant | 2-phenyl-2-trifluoromethylethanol | 5.25 mmol, 1.0 g | C1(=CC=CC=C1)C(CO)C(F)(F)F | C9H9F3O
reactant | sodium iodide | [I-].[Na+]
reactant | 3-phenoxybenzyl bromide | 5.25 mmol, 1.39 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 3-Phenoxybenzyl 2-phenyl-2-trifluoromethylethyl ether | 1.14 g, 58.3% | C1(=CC=CC=C1)C(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C(F)(F)F | C22H19F3O2
